US07064123B1
2,2-Bis-(2-phenylsulfanyl-ethyl)-malonic acid (5.628 g) was heated at 150° C. for 30 minutes. The reaction mixture was cooled to room temperature, dissolved in ethyl acetate and washed with aqueous sodium bicarbonate. The ethyl acetate solution was washed with saturated aqueous sodium chloride and then dried over magnesium sulfate. The solvent was removed by rotary evaporation at reduced pressure and the residue was chromatographed on silica gel eluting with ethyl acetate/hexane to give 4-phenylsulfanyl-2-(2-phenylsulfanyl-ethyl)-butyric acid (1.831 g).

reactant | 2,2-Bis-(2-phenylsulfanyl-ethyl)-malonic acid | 5.628 g | C1(=CC=CC=C1)SCCC(C(=O)O)(C(=O)O)CCSC1=CC=CC=C1 | C19H20O4S2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-phenylsulfanyl-2-(2-phenylsulfanyl-ethyl)-butyric acid | 1.831 g | C1(=CC=CC=C1)SCCC(C(=O)O)CCSC1=CC=CC=C1 | C18H20O2S2
